US09422261B2
(2,4-dimethoxyphenyl)(thiophene-2-yl)methanol
1.6 M solution of n-butyllithium in hexane (9.5 ml; 15.2 mmol; 1.1 eq) is added dropwise to a solution of compound (7) (3 g; 13.8 mmol; 1.0 eq) in 90 ml of anhydrous THF cooled to −78° C. The solution is stirred for 1 hour at −78° C. and then 2-formylthiophene (4.7 ml; 49.5 mmol; 3.6 eq) is added dropwise. The solution is stirred for 3 hours at 78° C., then for 15 hours at room temperature, and then 150 ml of water is added. After extraction with ethyl acetate (2×150 ml), the organic phases are combined, dried over MgSO4 and concentrated under reduced pressure. The oil obtained is purified by chromatography on silica gel (eluent: cyclohexane/ethyl acetate: 10:0 to 8:2) to lead to a mixture of compound (8) and thiophene-2-methanol (3.3 g; 85% by mass of compound (8); 87%) obtained as a yellow oil.

reactant | n-butyllithium | C(CCC)[Li]
reactant | hexane | 15.2 mmol, 9.5 ml, 1.1 eq | CCCCCC | C6H14
reactant | 2-formylthiophene | 49.5 mmol, 4.7 ml, 3.6 eq | C(=O)C=1SC=CC1 | C5H4OS
reactant | water | 150 ml | O | H2O
reactant | THF | 90 ml | C1CCOC1 | C4H8O
product | (2,4-dimethoxyphenyl)(thiophene-2-yl)methanol | COC1=C(C=CC(=C1)OC)C(O)C=1SC=CC1 | C13H14O3S
